US08372927B2
Preparation 1: preparation of (E)-N-(2-(2,6-diisopropylphenylamino)cyclohex-2-enylidene)-2,6-diisopropylaniline
Synthesis based on literature procedure (Gates, D. P.; Svejda, S. A. Onate, E.; Killian, C. M.; Johnson, L. K.; White, P. S.; Brookhart M. Macromolecules, 2000; 33:2320-2334.). Cyclohexane-1,2-dione (2.062 g, 18.39 mmol) and 2,6-diisopropylaniline (6.52 g, 36.78 mmol) are dissolved in 70 mL of methanol. To this solution is added 1 mL of formic acid and the mixture is stirred for 3 days at room temperature. Precipitated white crystalline solid is collected on the frit, washed with methanol (2×15 mL) and dried under reduced pressure to give 4.1 g (51.8% yield) of title compound of Preparation 1.

reactant | Cyclohexane-1,2-dione | 18.39 mmol, 2.062 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | 2,6-diisopropylaniline | 36.78 mmol, 6.52 g | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
reactant | formic acid | 1 mL | C(=O)O | CH2O2
solvent | methanol | 70 mL | CO | CH4O
product | (E)-N-(2-(2,6-diisopropylphenylamino)cyclohex-2-enylidene)-2,6-diisopropylaniline | 4.1 g, 51.8% yield | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC=1\C(\CCCC1)=N\C1=C(C=CC=C1C(C)C)C(C)C | C30H42N2
